US08426587B2
Procedure D: Preparation of (E)-4-(tert-butoxycarbonylamino)-2-fluorobut-2-enyl methane-sulfonate
To a stirring solution of (E)-tert-butyl-N-(3-fluoro-4-hydroxybut-2-enyl)carbamate (1.65 g, 8 mmol) in CH2Cl2 (30 mL) at 0° C. under nitrogen was added triethylamine (1.67 mL, 12 mmol) followed by methanesulfonyl chloride (0.74 mL, 9.6 mmol). The reaction was left to stir at 0° C. for 1 hr. All volatiles were removed under reduced pressure and the crude yellow residue was taken up in acetone (30 mL). The insoluble white precipitate (triethylammonium chloride) was filtered off and washed with acetone (10 mL). The filtrate containing the crude mesylate was used immediately for Procedure E.

reactant | (E)-tert-butyl-N-(3-fluoro-4-hydroxybut-2-enyl)carbamate | 8 mmol, 1.65 g | C(C)(C)(C)OC(NC\C=C(/CO)\F)=O | C9H16FNO3
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.6 mmol, 0.74 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (E)-4-(tert-butoxycarbonylamino)-2-fluorobut-2-enyl methane-sulfonate | CS(=O)(=O)OC/C(=C\CNC(=O)OC(C)(C)C)/F | C10H18FNO5S
